*==========================================================================
* Copyright 2026 IHP PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*    https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
* SPDX-License-Identifier: Apache-2.0
*==========================================================================
* chain_match's netlist against cmomf_mirrored.gds, the same chain with its
* last cap mirrored about the y axis.
*
* A cap_cmomf is symmetric, so mirroring a placement does not change the
* circuit and this netlist is the correct one for that layout. What mirroring
* does change is which of the two pins CapMomExtractor reaches first: it sorts
* the ports by x, so PLUS on the left edge becomes PLUS on the right edge and
* the two terminals come out exchanged.
*
* Expected to PASS, and it only does because DeviceCustomMIM declares the two
* terminals equivalent for every device whose name contains 'cmom'. Without
* that, this case fails and every mirrored instance in a real block is reported
* as a mismatch.
.SUBCKT cmomf_mirrored
C1 A  N1 cap_cmomf w=5e-06 l=5e-06 mmin=1 mmax=4
C2 N1 N2 cap_cmomf w=5e-06 l=5e-06 mmin=1 mmax=4
C3 N2 B  cap_cmomf w=5e-06 l=5e-06 mmin=1 mmax=4
.ENDS cmomf_mirrored
